US20010006969A1
2-Allylamino-4-cyclopentylamino-6-nitroquinazoline hydrochloride
To 128 mg (0.44 mmol) of 2-chloro-4-cyclopentylamino-6-nitroquinazoline was added 913 mg (16.00 mmol) of allylamine, followed by stirring at room temperature for 3 hours. To the reaction solution was water added, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 129 mg (yield: 93.6%) of a free base compound of the title compound.

reactant | 2-chloro-4-cyclopentylamino-6-nitroquinazoline | 0.44 mmol, 128 mg | ClC1=NC2=CC=C(C=C2C(=N1)NC1CCCC1)[N+](=O)[O-] | C13H13ClN4O2
reactant | allylamine | 16.00 mmol, 913 mg | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 2-Allylamino-4-cyclopentylamino-6-nitroquinazoline hydrochloride | Cl.C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NC1CCCC1)[N+](=O)[O-] | InChI=1S/C16H19N5O2.ClH/c1-2-9-17-16-19-14-8-7-12(21(22)23)10-13(14)15(20-16)18-11-5-3-4-6-11;/h2,7-8,10-11H,1,3-6,9H2,(H2,17,18,19,20);1H
